US05545669
a) Benzyl 2-(2-nitro-4-trifluoromethylphenoxy)phenyl ether
To a stirred solution of 4-fluoro-3-nitrobenzotrifluoride (2.1 g) and 2-benzyloxyphenol (2.0 g) in 10mL of DMF was added potassium carbonate (1.4 g). The reaction was heated at 90° C. for 16 hours. The solution was cooled to room temperature and H20 (10mL) was added. The mixture sas wxtraced with CH2Cl (2×10mL), and the combined extracts were dried (MgSO4), filtered, and concentrated to afford an oil. Silica gel chromatography (ethyl acetate/hexanes) afforde 3.6 g of the title compound. 1H NMR (400 MHz, CDCl3) δ8.19 (s, 1H), 7.60 (d, 1H), 7.26 (m, 5H), 7.08 (m, 4H), 6.88 (d, 1H), 5.02 (s, 2H).

reactant | 4-fluoro-3-nitrobenzotrifluoride | 2.1 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | 2-benzyloxyphenol | 2.0 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10mL | CN(C)C=O | C3H7NO
product | Benzyl 2-(2-nitro-4-trifluoromethylphenoxy)phenyl ether | 3.6 g | [N+](=O)([O-])C1=C(OC2=C(C=CC=C2)OCC2=CC=CC=C2)C=CC(=C1)C(F)(F)F | C20H14F3NO4
